US08232312B2
2 g benzo[b]thiophene-3-carboxylic acid are dissolved in 11 ml acetic anhydride and cooled to 0° C. A solution of 4.4 ml concentrated nitric acid in 10 ml acetic acid is added dropwise, while not allowing the temperature to rise above 5° C. Then the mixture is stirred for 1.5 hours and then combined with 200 ml ice water. The solid is suction filtered and dried in vacuo. Then it is dissolved in hot ethanol. After cooling to ambient temperature the solid (5-nitro-benzo[b]thiophene-3-carboxylic acid, approximately 80%) is suction filtered. By elimination of the solvent in vacuo, 6-nitro-benzo[b]thiophene-3-carboxylic acid (approx. 66%) is obtained from the mother liquor.

reactant | benzo[b]thiophene-3-carboxylic acid | 2 g | S1C2=C(C(=C1)C(=O)O)C=CC=C2 | C9H6O2S
reactant | nitric acid | 4.4 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 11 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 6-nitro-benzo[b]thiophene-3-carboxylic acid | approx. 66% | [N+](=O)([O-])C=1C=CC2=C(SC=C2C(=O)O)C1 | C9H5NO4S
